US07504403B2
7-Phenyl-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one.
4-Cyano-3-phenyl-but-3-enoic acid ethyl ester (crude, 9.37 g, 0.043 mol), ethylenediamine (3 mL, 0.043 mol) were mixed in dichlorobenze (20 mL) and heated at 160° C. overnight. The resulting suspension was cooled to room temperature, filtered, and the filtrated cake was washed with EtOAc and finally dried to provide the title compound as a brownish yellow solid. MS m/e 213 (M+H)+.

reactant | 4-Cyano-3-phenyl-but-3-enoic acid ethyl ester | 0.043 mol, 9.37 g | C(C)OC(CC(=CC#N)C1=CC=CC=C1)=O | C13H13NO2
reactant | ethylenediamine | 0.043 mol, 3 mL | C(CN)N | C2H8N2
product | 7-Phenyl-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one | C1(=CC=CC=C1)C=1C=C2N(C(C1)=O)CCN2 | C13H12N2O
